US08957074B2
A sample of 7-Cyclopentyl-N,N-dimethyl-2-(5-((1S,6R)-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (50 mg, 0.102 mmol), acetic anhydride (0.020 ml, 0.113 mmol) and diisopropylethylamine (0.014 ml, 0.154 mmol) were combined with 1 ml DCM. The mixture was allowed to stir for 16 hr and then taken up into EtOAc, washed with brine, dried over Na2SO4 filtered and concentrated. The crude product was purified by silica gel chromatography which gave 2-(5-((1S,6R)-9-acetyl-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (32 mg) 52% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.70 (d, J=8.08 Hz, 1H), 8.82 (s, 1H), 8.33 (dd, J=9.09, 6.06 Hz, 1H), 8.13 (d, J=2.53 Hz, 1H), 7.60 (dd, J=9.09, 2.53 Hz, 1H), 6.63 (s, 1H), 4.76 (t, J=8.84 Hz, 1H), 4.70 (br. s., 0H), 4.55 (m, 0H), 4.43 (s, 0H), 4.34 (br. s., 0H), 4.18 (d, J=14.65 Hz, 0H), 4.06 (d, J=14.15 Hz, 0H), 3.59 (m, 1H), 3.06 (br. s., 6H), 2.98 (d, J=16.17 Hz, 1H), 2.87 (d, J=14.65 Hz, 0H), 2.73 (m, 1H), 2.44 (br. s., 2H), 2.19 (m, 1H), 2.05 (d, J=4.55 Hz, 3H), 1.98 (m, 6H), 1.82 (m, 2H), 1.66 (d, J=5.56 Hz, 3H), 1.23 (br. s., 1H). MS m/z 531.6 (M+H).

reactant | 7-Cyclopentyl-N,N-dimethyl-2-(5-((1S,6R)-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 0.102 mmol, 50 mg | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2C[C@@H]1CC[C@H](CC2=O)N1)C(=O)N(C)C | C26H32N8O2
reactant | acetic anhydride | 0.113 mmol, 0.020 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | diisopropylethylamine | 0.154 mmol, 0.014 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DCM | 1 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(5-((1S,6R)-9-acetyl-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 32 mg, 52% yield | C(C)(=O)N1[C@@H]2CN(C(C[C@H]1CC2)=O)C=2C=CC(=NC2)NC=2N=CC1=C(N2)N(C(=C1)C(=O)N(C)C)C1CCCC1 | C28H34N8O3
